US08193228B2
4-(2-fluoro-1,2-dimethylpropyl)-2-methyl-1-trityl-1H-imidazole
2,2-Dimethyl-1-(2-methyl-1-trityl-1H-imidazol-4-yl)propan-1-ol (200 mg, 0.49 mmol) in a minimal volume of methylene chloride was added to HF-pyridine (2 mL) at 0° C. After stirring at ambient temperature overnight, the reaction was added dropwise to TMS-ethanol and partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. Organic phase was washed with brine, dried (sodium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 10-70% ethyl acetate/hexane afforded the title compound.

reactant | 2,2-Dimethyl-1-(2-methyl-1-trityl-1H-imidazol-4-yl)propan-1-ol | 0.49 mmol, 200 mg | CC(C(O)C=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)(C)C | C28H30N2O
reactant | HF-pyridine | 2 mL | C1=CC=NC=C1.F
reactant | TMS-ethanol | [Si](C)(C)(C)C(C)O | C5H14OSi
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(2-fluoro-1,2-dimethylpropyl)-2-methyl-1-trityl-1H-imidazole | FC(C(C)C=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)(C)C | C28H29FN2
